US05280032
A mixture of 150 mg of 2-[2-(N,N-dimethylamino)ethoxy]-1-(8-nitro-1-naphthyl)ethanol oxalate, 150 mg of 5% palladium-carbon and 3 ml of methanol was subjected to hydrogenation at room temperature for 30 minutes under atmospheric pressure. After the completion of the reaction, the palladium-carbon was removed by filtration. The filtrate was subjected to distillation under reduced pressure to remove the solvent. The residue thus obtained was added to a mixture of 30 ml of ice water and 30 ml of chloroform. The mixture was adjusted to pH 11 with a 2N aqueous sodium hydroxide solution. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was dissolved in 1 ml of ethanol. Thereto was added 0.2 ml of a 5.9N dry hydrogen chloride-ethanol solution. The resulting crystals were collected by filtration and dried to obtain 110 mg of 1-(8-amino-1-naphthyl)-2-[2-(N,N-dimethylamino)ethoxy]ethanol dihydrochloride (compound No. 290).

reactant | 2-[2-(N,N-dimethylamino)ethoxy]-1-(8-nitro-1-naphthyl)ethanol oxalate | 150 mg | C(C(=O)O)(=O)O.CN(C)CCOCC(O)C1=CC=CC2=CC=CC(=C12)[N+](=O)[O-]
reactant | methanol | 3 ml | CO | CH4O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrogen chloride ethanol | 5.9N | Cl.C(C)O
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 150 mg | [C].[Pd]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(8-amino-1-naphthyl)-2-[2-(N,N-dimethylamino)ethoxy]ethanol dihydrochloride | 110 mg | Cl.Cl.NC=1C=CC=C2C=CC=C(C12)C(COCCN(C)C)O | InChI=1S/C16H22N2O2.2ClH/c1-18(2)9-10-20-11-15(19)13-7-3-5-12-6-4-8-14(17)16(12)13;;/h3-8,15,19H,9-11,17H2,1-2H3;2*1H
